US04410537
A solution of 5-(2-formyl-3-benzyloxyphenoxy) pentanoic acid (1.0 g, 0.003 M) in ethanol containing 5% palladium on charcoal catalyst (0.61 g) was hydrogenated at atmospheric pressure. After 20 minutes the reaction was complete and the catalyst was filtered off and the ethanol removed in vacuo to give 5-(2-formyl-3-hydroxyphenoxy)pentanoic acid, m.p. 94° C.

reactant | 5-(2-formyl-3-benzyloxyphenoxy) pentanoic acid | 0.003 M, 1.0 g | C(=O)C1=C(OCCCCC(=O)O)C=CC=C1OCC1=CC=CC=C1 | C19H20O5
catalyst | ethanol | 0.61 g | C(C)O | C2H6O
product | 5-(2-formyl-3-hydroxyphenoxy)pentanoic acid | C(=O)C1=C(OCCCCC(=O)O)C=CC=C1O | C12H14O5
